US03984407
a. 1-Piperidino-3,4-dihydronaphthalene
A solution of 146 g. (1.00 mole) of 1-tetralone and 150 ml. of piperidine in 1 l. of toluene is treated with 1 g. of p-toluenesulfonic acid and heated for 11 days under reflux with a water take-off trap attached. 13.1 ml. of water is collected. Fractional distillation affords 105.3 g. of 1-piperidino-3,4-dihydronaphthalene collected at 118°-120° (0.2 mm.).

reactant | 1-tetralone | 1.00 mole | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 1-Piperidino-3,4-dihydronaphthalene | N1(CCCCC1)C1=CCCC2=CC=CC=C12 | C15H19N
